US04931444
A mixture of 4.6 parts of N-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]-4-phenyl-2-thiazolamine, 2 parts of bromoethane, 1 part of sodium hydroxide and 94 parts of N,N-dimethylformamide was stirred for 16 hours at room temperature. Another portion of 2 parts of bromoethane and 1 part of sodium hydroxide was added and stirring was continued for 4 hours at 50° C. The reaction mixture was diluted with water. The precipitated product was filtered off and purified by column chromatography over silica gel using trichloromethane as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 4-methyl-2-pentanone. The product was filtered off and dried, yielding 4.0 parts (81.7%) of N-ethyl-N-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]-4-phenyl-2-thiazolamine; mp. 223.6° C. (int. 3).

reactant | N-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]-4-phenyl-2-thiazolamine | COC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)NC=1SC=C(N1)C1=CC=CC=C1 | C26H26N4OS
reactant | bromoethane | BrCC | C2H5Br
reactant | sodium hydroxide | [OH-].[Na+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-ethyl-N-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]-4-phenyl-2-thiazolamine | 81.7% | C(C)N(C=1SC=C(N1)C1=CC=CC=C1)C1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)OC | C28H30N4OS
